Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
UTI + fall 
 
Major Surgical or Invasive Procedure:
n/a 

 
History of Present Illness:
___ ___ dementia, hip fx, depression, presenting as transfer 
from
___ for evaluation of recurrent falls and c/f pyelonephritis. 


History largely obtained through discussion with daughter.
Daughter reports patient has had multiple falls over the past 2
weeks - says this is something that often happens when she has a
urinary tract infection, and was pushing her ___ facility to
evaluate but they didn't do anything. She then had a significant
fall and was seen in BI ED on ___ and found to have a small SDH 
-
neurosurgery evaluated with no concern, so she was sent back to
her nursing home. She also had a +UTI, started on bactrim. Per
report, she has refused to take her oral antibiotics or was not
given them at her ___ facility. 

Today, her daughter received a call saying that her mother had
fallen again, struck her head and was headed to ___.
At ___, she was noted to have a WBC of 24K, be tachypnic and
tachycardic. 

At ___, patient underwent reevaluation with CT head, cervical
spine, CBC, CMP, urinalysis. She was found to have a new
intraparenchymal versus  subarachnoid hemorrhage on the right
side. she was also found to have a significantly elevated white
blood cell count and urinary tract infection consistent with
urosepsis, along with dehydration. Patient was again transferred
again to ___ for her new ___ vs SAH in the setting of new fall
and untreated, worsening UTI with urosepsis. She was treated 
with
ceftriaxone and IV fluids 1500cc prior to departure. 

In the ED, initial VS were: 98.8 124/74 100 18 98/RA 

Exam notable for: staple to left side of head over previous
laceration from fall on ___ where she was diagnosied with a
subdural hemorrhage. Patient has abrasions and ecchymosis to 
nose
and bilateral eyes.  

ECG: Atrial rhythm, inverted Pwaves inferiorly, no ischemic
changes 

Labs (___):  
Na - 137
K - 3.9
Cl - 98
Co2 - 20
BUN - 35
Creat - 1

WBC - 24.4
Hg - 11.8
Hct - 35.1
Plat - 329

UA
- Nitrite positive
- Leu Esterase Large
- WBC ___
- Bacteria 2+

Imaging showed:  
- CT head:
Decreased size left subacute subdural hematoma.
New acute hemorrhage right temporal lobe as above, parenchymal
contusion versus subarachnoid hemorrhage.
Frontal soft tissue laceration.
Acute sphenoid sinus disease.
- CT cervical spine:No fracture 
- CXR: no acute process

Consults: Neurosurgery:
Head CT with small R tSAH, no mass effect, no midline shift. Not
on anticoagulation. A&Ox1-2, dementia - at baseline per her
daughter. Otherwise neuro intact. 
 Plan: 
 Mild TBI
 Please provide TBI education pamphlet
 No Keppra
 No need for further imaging.  

Patient received: 
___ 03:31 IVF  NS  ___ Started 100 mL/hr  

On arrival to the floor, patient reports ***  
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  

 
Past Medical History:
Depression
HTN
Hip fracture
 
 
Social History:
___
Family History:
NC
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: 98.8  135/85  93  16  92/Ra  
GENERAL: NAD  
HEENT: bilateral ecchymoses below eyes, dressed wound over head,
injury to nares w/ scabbing. Slight anisocoria L>R, PEERLA. MM
dry. oropharynx clear
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema, several 
superficial
wounds  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox1, CN ___ intact, strength ___ and sensation intact
throughout 
SKIN: warm and well perfused, lesions as above

DISCHARGE PHYSICAL EXAM
VS: 97.9 PO 159/85 L Sitting 92 18 93 Ra 
GENERAL:  Elderly woman, sitting up in bed, with red glasses on 
HEENT: b/l ecchymoses below eyes, right nare is partially 
excited, slight anisocoria L>R, PERRLA
CV: RRR, Soft systolic murmur heard at RLSB
Abd: Soft, non-tender, non-distended. + BS. 
Extremities: No peripheral edema, WWP. 
Neuro:  AxO x 1. CN ___ intact. Strength ___ in UE and ___ b/l.  

 
Pertinent Results:
ADMISSION LABS: 

___ 08:45AM BLOOD WBC-17.9* RBC-3.52* Hgb-10.3* Hct-31.4* 
MCV-89 MCH-29.3 MCHC-32.8 RDW-13.5 RDWSD-44.1 Plt ___
___ 08:45AM BLOOD Glucose-107* UreaN-24* Creat-0.8 Na-140 
K-3.9 Cl-104 HCO3-22 AnGap-14
___ 08:45AM BLOOD Calcium-8.5 Phos-3.2 Mg-1.8

IMAGING (outside facility): 
CT head:
Decreased size left subacute subdural hematoma.
New acute hemorrhage right temporal lobe as above, parenchymal
contusion versus subarachnoid hemorrhage.
Frontal soft tissue laceration.
Acute sphenoid sinus disease.
CT cervical spine:No fracture 
CXR: no acute process

DISCHARGE LABS: 

___ 06:45AM BLOOD WBC-8.2 RBC-3.75* Hgb-10.8* Hct-33.3* 
MCV-89 MCH-28.8 MCHC-32.4 RDW-13.2 RDWSD-43.1 Plt ___
___ 06:45AM BLOOD Glucose-89 UreaN-9 Creat-0.6 Na-141 K-4.1 
Cl-106 HCO3-23 AnGap-12
___ 06:45AM BLOOD Calcium-8.8 Phos-2.8 Mg-1.9

MICROBIOLOGY

___ 11:49 am URINE      ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

 
Brief Hospital Course:
This is an ___ year old female with past medical history of 
dementia, depression, recent fall with subdural hemorrhage, 
admitted ___ with repeat fall, found to have Ecoli UTI and 
subarachnoid hemorrhage, managed non-operatively, course 
complicated by acute metabolic encephalopathy and hypoglycemia, 
subsequently improving and able to be discharged back to nursing 
home

# Sepsis secondary to 
# Ecoli UTI 
Per patient's daughters, patient has history of recurrent UTIs 
that present only with altered mental status and falls with no 
other urinary symptoms, including fall complicated by hip 
fracture ___.  She had a fall complicated by subdural 
hemorrhage in setting of UTI on ___, and was found to have 
positive urinalysis with urine culture showing E. coli 
susceptible to CTX.  She was discharged back to facility, and 
per daughter, unclear if she was actually taking PO antibiotics 
there (in any case she was prescribed Bactrim, which the E. coli 
was resistant to).  On ___, she initially presented to ___ 
___ after another fall, was noted to be tachycardic, 
tachypnic, and have leukocytosis of 24.  She was started on IV 
CTX and transferred to ___.  She was continued on IV CTX with 
improving clinical response and resolving leukocytosis.  On 
___, she was transitioned to PO cefpodoxime to complete a 
7-day course. 

#  Acute subarachnoid hemorrhage 
# Dementia with behavioral disturbance
# Acute metabolic encephalopathy 
# S/p fall
Upon presentation from fall, patient had CT imaging that showed 
decreased left subacute subdural hematoma with new right 
temporal lobe hemorrhage, concerning for parenchymal contusion 
versus subarachnoid hemorrhage; no mass effect or midline shift 
noted. CT cervical spine showed no fracture and CXR showed no 
acute process.  After transfer to ___, neurosurgery evaluated 
patient and recommended non-surgical management and against 
seizure prophylaxis or additional imaging.   Course was 
complicated by lethargy and agitation, thought to be secondary 
to her SAH and delirium.  She was treated with delirium 
precautions and reorientation, and over the course of 72 hours, 
she improved to her baseline mental status (alert and oriented 
to name only).  The etiology of this fall was felt to be 
mechanical.  Workup for additional causes was notable for 
reassuring EKG without tachyarrhythmia or ischemic changes and 
exam without new neurologic findings.  She was able to be 
discharged back to her nursing home

#Urinary retention: 
Course was complicated by urinary retention with post-void 
residuals ranging from 400 - 850 mL.  This was felt to be 
secondary to her above SAH and delirium.  With improved in her 
clinical status she passed a trial of void, although 
occasionally required intermittent straight catheterization.  
Would consider scheduled bladder scans with prn straight 
catheterization if she has evidence of urinary retention. 

#Depression: 
Continued home sertraline

TRANSITIONAL ISSUES
===================
- Discharged to nursing home 
- As above, would consider scheduled bladder scans to assess 
whether patient will require intermittent straight 
catheterization
- Code status full; would continue to address with family 

> 30 minutes spent on discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 
3. Azo Cranberry (cranberry fruit concentrate) 250 mg oral DAILY 

4. Multivitamins 1 TAB PO DAILY 
5. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Cefpodoxime Proxetil 100 mg PO/NG Q12H  
2.  Ramelteon 8 mg PO QHS:PRN insomnia  
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  Azo Cranberry (cranberry fruit concentrate) 250 mg oral 
DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  Sertraline 50 mg PO DAILY  
7.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
# Acute subarachnoid hemorrhage 
# UTI
# Hypoglycemia
# Acute metabolic encephalopathy
# Dementia with behavioral disturbance
# Urinary retention
 
Discharge Condition:
MSE: Alert and oriented only to name. Able to converse in full 
sentences.  

Ambulatory Status: Cannot ambulate independently; requires 
assistance.  High fall risk. 

 
Discharge Instructions:
Dear Ms. ___,  
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
You were admitted to the hospital after a fall in the setting of 
an bladder infection.  

What was done for me while I was in the hospital?  
You received antibiotics for your infection.  While you were 
here, you were also evaluated by our neurosurgery team, where 
they found some bleeding in your brain.  At this time, they did 
not feel that you needed any treatment for this. 

What should I do when I leave the hospital?  
You should continue your course of antibiotics to treat your 
urinary tract infection.  You should also work very closely with 
your facility nurses to lower your risk of falls while staying 
there.  

Sincerely,  
Your ___ Care Team  

 
Followup Instructions:
___